US08404726B2
(1) Methyl 3-[4-[3-[5-isopropyl-2-(2-hydroxyphenyl)-4-oxazolyl]propionyl]-2-methylphenyl]propionate
Methyl 3-[4-[3-[5-isopropyl-2-(2-methoxyphenyl)-4-oxazolyl]propionyl]-2-methylphenyl]propionate (24 mg, 0.0534 mmol) was dissolved in methylene chloride (1.2 mL) 1M dichloromethane solution of trichloroborane (127 μL, 0.127 mmol) was added to the solution at 0° C. The mixture was stirred at room temperature for 24 hours. Ice-cold water (5 mL) was added to the mixture. The resulting mixture was extracted with chloroform. The organic layer was washed with saturated aqueous solution of sodium carbonate and water, and dried with anhydrous sodium sulfate. The solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography with hexane/ethyl acetate (3:1, v/v) to give the desired compound (4 mg) as white crystalline product (yield 17%).

reactant | Methyl 3-[4-[3-[5-isopropyl-2-(2-methoxyphenyl)-4-oxazolyl]propionyl]-2-methylphenyl]propionate | 0.0534 mmol, 24 mg | C(C)(C)C1=C(N=C(O1)C1=C(C=CC=C1)OC)CCC(=O)C1=CC(=C(C=C1)CCC(=O)OC)C | C27H31NO5
reactant | trichloroborane | 0.127 mmol, 127 μL | ClB(Cl)Cl | BCl3
solvent | methylene chloride | 1M, 1.2 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-[4-[3-[5-isopropyl-2-(2-hydroxyphenyl)-4-oxazolyl]propionyl]-2-methylphenyl]propionate | 4 mg, Yield 17% | C(C)(C)C1=C(N=C(O1)C1=C(C=CC=C1)O)CCC(=O)C1=CC(=C(C=C1)CCC(=O)OC)C | C26H29NO5
